US08076505B2
3′,4′-dichloro-2-fluoro-4-bromomethyl-biphenyl (35.0 g, 0.105 mol) and sodium cyanide (5.4 g, 0.110 mol) were dissolved in a mixture of ethanol (228 ml) and water (25 ml), then heated at 50° C. for 3 hours. The solution was concentrated under vacuum and the residue was suspended in ethanol/water 1/1 v/v (35 ml) and cooled at 0-5° C. for 30 minutes. The obtained solid is filtered and dried at 40° C. under vacuum. The crude product was suspended in ethanol (56 ml) at 20 to 25° C. for 30 minutes, filtered and dried at 40° C. under vacuum. The compound 3′,4′-dichloro-2-fluoro-4-cyanomethyl-biphenyl was obtained as a light brown powder (16.8 g, 57% yield).

reactant | 3′,4′-dichloro-2-fluoro-4-bromomethyl-biphenyl | 0.105 mol, 35.0 g | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)CBr)F | C13H8BrCl2F
reactant | sodium cyanide | 0.110 mol, 5.4 g | [C-]#N.[Na+]
solvent | ethanol | 228 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 3′,4′-dichloro-2-fluoro-4-cyanomethyl-biphenyl | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)CC#N)F | C14H8Cl2FN
